US04880806
To 1-cyclopropyl-7-(4-benzyl-1-piperazinyl)-6-fluoro-8-hydroxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (132 mg) are added 10% Pd-C (68 mg) and ethanol (10 ml), and the mixture is subjected to catalytic reduction under hydrogen gas atmosphere at 60° C. for 6.5 hours. After filtering off the catalyst, the filtrate is concentrated. The resulting residue is recrystallized from ethanol-acetone-dichloromethane to give 1-cyclopropyl-7-(1-piperazinyl)-6-fluoro-8-hydroxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (34.2 mg), as white powder, m.p. 149°-152° C.

reactant | 1-cyclopropyl-7-(4-benzyl-1-piperazinyl)-6-fluoro-8-hydroxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 132 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)CO)N1CCN(CC1)CC1=CC=CC=C1)F)=O)C(=O)O | C25H26FN3O4
catalyst | Pd-C | 68 mg | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-cyclopropyl-7-(1-piperazinyl)-6-fluoro-8-hydroxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 34.2 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)CO)N1CCNCC1)F)=O)C(=O)O | C18H20FN3O4
